US04237305
4-(p-Acetylphenoxy)butyric acid (4.1 g.) was suspended in ethyl acetate (80 ml.), and to the suspension was added dropwise an ether solution of diazomethane with stirring under ice-cooling until a color of the diazomethane was appeared. After the stirring was continued at the same temperature for additional half an hour, a small amount of acetic acid was added to the reaction mixture, and then the solution was stirred for a while. This solution was evaporated to dryness under reduced pressure and the residue was treated with a mixture of isopropyl ether and n-hexane (1:1 by volume) to give methyl 4-(p-acetylphenoxy)butyrate (3.83 g.).

reactant | 4-(p-Acetylphenoxy)butyric acid | 4.1 g | C(C)(=O)C1=CC=C(OCCCC(=O)O)C=C1 | C12H14O4
reactant | ether | CCOCC | C4H10O
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
product | methyl 4-(p-acetylphenoxy)butyrate | 3.83 g | C(C)(=O)C1=CC=C(OCCCC(=O)OC)C=C1 | C13H16O4
